US04150026
To a solution of 3.4 g (0.02 mole) of anhydrous zinc chloride in 130 ml absolute ethanol was added a solution of 2-methyl-3-isothiazolone in 20 ml of absolute ethanol. The clear solution was stirred at room temperature for 30 minutes. Concentration yielded a tan solid. The solid was triturated with ether, filtered, and dried to yield 8.4 g (92%) of bis-(2-methyl-3-isothiazolone) zinc(II)chloride, m.p. 148°-151° C.

reactant | zinc chloride | 0.02 mole, 3.4 g | [Cl-].[Zn+2].[Cl-]
reactant | 2-methyl-3-isothiazolone | CN1SC=CC1=O | C4H5NOS
solvent | ethanol | 130 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | bis-(2-methyl-3-isothiazolone) zinc(II)chloride | 8.4 g, 92% | [Cl-].[Zn+2].CN1SC=CC1=O.CN1SC=CC1=O.[Cl-] | InChI=1S/2C4H5NOS.2ClH.Zn/c2*1-5-4(6)2-3-7-5;;;/h2*2-3H,1H3;2*1H;/q;;;;+2/p-2
